US07361677B2
Benzoic acid 2-chloro-5-{[(4-cyano-phenyl)-[1,2,4]triazol-4-yl-amino]methyl}-phenyl ester (CAB02139)
Sodium hydride (60%, 200 mg, 5.0 mmol) was added to a solution of 4-([1,2,4]triazol-4-ylamino)-benzonitrile (926 mg, 5.0 mmol) in DMF (20 mL) at r.t. The mixture was stirred for 1 hour at this temperature and benzoic acid 5-bromomethyl-2-chloro-phenyl ester (CAB02138, 1.63 g, 5.0 mmol) was added. The reaction mixture was stirred overnight and ethyl acetate (75 mL) was added. The mixture was transferred into a separation funnel and washed with water (2×50 mL) and brine (20 mL). The organic layer was dried over sodium sulphate and concentrated under reduced pressure. The residue was purified by column chromatography (EtOAc, Rf:0.31) to give a white solid. Yield: 1.773 g (82%). 1H-NMR (400 MHz, CDCl3) δ=4.93 (s, 2H), 6.66 (d, 9.0 Hz, 2H), 7.06 (dd, J=8.2, 2.0 Hz, 1H), 7.27 (d, J=2.0 Hz, 1H), 7.45 (d, J=8.2 Hz, 1H), 7.47-7.58 (m, 4H), 7.60-7.69 (m, 1H), 8.16-8.21 (m, 2H), 8.24 (s, 2H). LRMS (FAB+): 430.1 (100, [M+H]+).

reactant | Sodium hydride | 5.0 mmol, 200 mg | [H-].[Na+]
reactant | 4-([1,2,4]triazol-4-ylamino)-benzonitrile | 5.0 mmol, 926 mg | N=1N=CN(C1)NC1=CC=C(C#N)C=C1 | C9H7N5
reactant | benzoic acid 5-bromomethyl-2-chloro-phenyl ester | 5.0 mmol, 1.63 g | BrCC=1C=CC(=C(C1)OC(C1=CC=CC=C1)=O)Cl | C14H10BrClO2
reactant | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | Benzoic acid 2-chloro-5-{[(4-cyano-phenyl)-[1,2,4]triazol-4-yl-amino]methyl}-phenyl ester | ClC1=C(C=C(C=C1)CN(N1C=NN=C1)C1=CC=C(C=C1)C#N)OC(C1=CC=CC=C1)=O | C23H16ClN5O2
